US07132428B2
c) 5-Phenyl-3-trifluoromethyl-1H-pyrazolo[4,3-c]isoquinoline (BG).
A mixture of 1.02 g of N-(5-phenyl-3-trifluoromethyl-1H-pyrazol-4-yl)-benzamide in 10 mL of nitrobenzene was treated with 0.41 mL of phosphorous oxychloride and stirred at 185° C. for 6 h. The solvent was distilled off under high vacuum and the residue was partitioned between ethyl acetate and water. The organic portion was washed with saturated sodium bicarbonate, water and brine and dried over magnesium sulphate. Concentration and purification by MPLC, eluting with 1/3 ethyl acetate/heptane, gave the title compound as a white solid, melting point 264–265° C.

reactant | N-(5-phenyl-3-trifluoromethyl-1H-pyrazol-4-yl)-benzamide | 1.02 g | C1(=CC=CC=C1)C1=C(C(=NN1)C(F)(F)F)NC(C1=CC=CC=C1)=O | C17H12F3N3O
reactant | phosphorous oxychloride | 0.41 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | nitrobenzene | 10 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 5-Phenyl-3-trifluoromethyl-1H-pyrazolo[4,3-c]isoquinoline | C1(=CC=CC=C1)C1=NC2=C(C=3C=CC=CC13)NN=C2C(F)(F)F | C17H10F3N3
